US04294838
In a manner analogous to that described in Example 1, Stage 3, from S-(2-furyl)-S-phenyl-sulphoximide and 2-diethylaminoethyl chloride, there is obtained N-(2-diethylaminoethyl-S-(2-furyl)-S-phenyl-sulphoximide in a yield of 48% of theory. The corresponding fumarate, after recrystallisation from ethyl acetate/isopropanol, melts at 133° C.

reactant | S-(2-furyl)-S-phenyl-sulphoximide | O1C(=CC=C1)S(=O)(=N)C1=CC=CC=C1 | C10H9NO2S
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | 2-diethylaminoethyl-S-(2-furyl)-S-phenyl-sulphoximide | yield of 48% | C(C)N(CCN=S(=O)(C1=CC=CC=C1)C=1OC=CC1)CC | C16H22N2O2S
